US06730792B2
To a solution of 2-(3-hydroxyphenyl)imidazoline (0.895 g, 5.52 mmol) in tetrahydrofuran (11 ml) is added water (11 ml), potassium carbonate (1.5 g, 10.8 mmol), then di-t-butyl-dicarbonate (1.2 g, 5.5 mmol). The resulting mixture is stirred over night before additional di-t-butyl-dicarbonate (120 mg) is added and the stirring is continued for several hours. The mixture is diluted with water and extracted with ethyl acetate. The organic layer is washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified via chromatography on silica gel with dichloromethane/ethanol (gradient up to 20:1) to give 615 mg of t-butyl (2-(3-hydroxyphenyl)imidazolin-1-yl)carboxylate (42%). This Boc-protected product (610 mg, 2.33 mmol) is reacted with (2S)-glycidyl 3-nitrobenzenesulfonate substantially as described for Epoxide 1 to yield 720 mg (97%) of the title epoxide.

reactant | 2-(3-hydroxyphenyl)imidazoline | 5.52 mmol, 0.895 g | OC=1C=C(C=CC1)C=1NCCN1 | C9H10N2O
reactant | potassium carbonate | 10.8 mmol, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | di-t-butyl-dicarbonate | 5.5 mmol, 1.2 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-t-butyl-dicarbonate | 120 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | water | 11 ml | O | H2O
product | t-butyl (2-(3-hydroxyphenyl)imidazolin-1-yl)carboxylate | 615 mg, 42% | OC=1C=C(C=CC1)C=1N(CCN1)C(=O)OC(C)(C)C | C14H18N2O3
